US06083950
Preparation of 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,6-dioxopiperidin-1-yl)propane (Compound No. 13)
Scheme-I: A mixture of 2,6-dioxopiperidine (2.60 g, 23.02 mmol), 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-chloropropane (6.18 g, 23.02 mmol), potassium carbonate (2.38 g, 17.27 mmol) and tetrabutylammonium bromide (1.48 g, 4.60 mmol) in acetone (80 ml) was refluxed for 16 hours at 80° C. with stirring. The solvent was evaporated off in vaccuo and the residue suspended in water (60 ml), extracted with chloroform (3×40 ml) and the organic layers combined, washed with water (2×40 ml), dried over anhydrous Na2SO4 and evaporated in vacuo to give the title compound. The product was purified by column chromatography over flash silica gel (230-400 mesh) using chloroform-methanol (98:1) as eluent; yield 3.58 g (45%), oil.

reactant | 2,6-dioxopiperidine | 23.02 mmol, 2.60 g | O=C1NC(CCC1)=O | C5H7NO2
reactant | 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-chloropropane | 23.02 mmol, 6.18 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCl | C14H21ClN2O
reactant | potassium carbonate | 17.27 mmol, 2.38 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 4.60 mmol, 1.48 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,6-dioxopiperidin-1-yl)propane | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(CCCC1=O)=O | C19H27N3O3
